US08748469B2
4-(2-Ammoniophenyl)-1H-imidazol-1-ium Chloride
To a stirred solution of tent-butyl 2-(1H-imidazol-5-yl)phenylcarbamate (64.7 mg, 0.25 mmol) in 1,4-dioxane (2 mL) was added HCl (2 mL, 2.0 M in 1,4-dioxane). The mixture was allowed to stir at room temperature for 12 h and concentrated under reduced pressure. The residue was diluted with ethyl ether and the desired hydrochloride salt was precipitated. The colorless solid was collected by filtration, which afforded the desired product in 46% yield. 1H NMR: 6.66-6.82 (m, 2H), 7.11-7.20 (m, 2H), 7.21-7.38 (m, 4H), 7.40-7.68 (m, 3H).

reactant | butyl 2-(1H-imidazol-5-yl)phenylcarbamate | 0.25 mmol, 64.7 mg | N1C=NC=C1C1=C(C=CC=C1)NC(OCCCC)=O | C14H17N3O2
reactant | HCl | 2.0 M, 2 mL | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-(2-Ammoniophenyl)-1H-imidazol-1-ium Chloride | 46% yield | [Cl-].[NH3+]C1=C(C=CC=C1)C=1N=C[NH2+]C1.[Cl-] | InChI=1S/C9H9N3.2ClH/c10-8-4-2-1-3-7(8)9-5-11-6-12-9;;/h1-6H,10H2,(H,11,12);2*1H
